US05863947
A mixture of 4-cyano-2-trifluoromethylsulphonyl-benzaldehyde (1.75 g, 6.3 mmol), tris(dibenzylidenacetone)dipalladium(o) (116 mg, 0.13 mmol), tris(2-furyl)phosphine (234 mg, 1.0 mmol) and anhydrous lithium chloride (0.8 g, 18.9 mmol) in dry N-methyl pyrrolidinone (18 ml) were reacted with (phenylethynyl)tri-n-butyltin (2.91 g, 7.4 mmol) for 3 hours at 50° C. and worked up following the procedure described in Example 15 (i). The crude oil was chromatographed on flash silica eluting with hexane-diethyl ether (4:1) to give 4-cyano-2-(2-phenylethynyl)benzaldehyde as a yellow solid.

reactant | 4-cyano-2-trifluoromethylsulphonyl-benzaldehyde | 6.3 mmol, 1.75 g | C(#N)C1=CC(=C(C=O)C=C1)S(=O)(=O)C(F)(F)F | C9H4F3NO3S
reactant | tris(2-furyl)phosphine | 1.0 mmol, 234 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | lithium chloride | 18.9 mmol, 0.8 g | [Cl-].[Li+]
reactant | (phenylethynyl)tri-n-butyltin | 7.4 mmol, 2.91 g | C1(=CC=CC=C1)C#C[Sn](CCCC)(CCCC)CCCC
solvent | N-methyl pyrrolidinone | 18 ml | CN1CCCC1=O | C5H9NO
product | 4-cyano-2-(2-phenylethynyl)benzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)C#CC1=CC=CC=C1 | C16H9NO
